US07052742B1
(2-Propyl-thiazol-5-yl)methyl 4-(5-undecyl-pyrimidin-2-yl)phenyl ether
A fully reacted mixture of equimolar amounts of diethyl azodicarboxylate and triphenylphosphine in THF is admixed with equimolar amounts of 4-(5-undecyl-pyrimidin-2-yl)phenol and 2-propylthiazol-5-yl-methanol (prepared by LiAlH4 reduction of methyl 2-propylthiazole-5-carboxylate). The mixture is stirred for 24 h at room temperature and then evaporated to dryness under reduced pressure. Purification by chromatography (silica gel, dichloromethane) and recrystallization affords the target compound.

reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-(5-undecyl-pyrimidin-2-yl)phenol | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C21H30N2O
reactant | 2-propylthiazol-5-yl-methanol | C(CC)C=1SC(=CN1)CO | C7H11NOS
solvent | THF | C1CCOC1 | C4H8O
product | (2-Propyl-thiazol-5-yl)methyl 4-(5-undecyl-pyrimidin-2-yl)phenyl ether | C(CCCCCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCC1=CN=C(S1)CCC | C28H39N3OS
